US06197729B1
d) 4-(3,3,3-Trifluoropropyl)cyclohexanone
35.6 g of 4-(3,3,3-trifluoropropyl)cyclohexanol were dissolved in 600 ml of acetone and 37 ml of water and mixed with 69 ml of Jones reagent. The mixture was stirred at room temperature for 24 h, mixed with 9 ml of isopropanol and 24 g of sodium hydrogen carbonate, the precipitate was filtered off and the residue was taken up in saturated aqueous sodium chloride. The mixture was extracted with ether and the combined ether phases were washed with water, dried and concentrated. Chromatography over silica gel (petroleum ether/ethyl acetate=3:1) gave the title product as a colourless oil.

reactant | 4-(3,3,3-trifluoropropyl)cyclohexanol | 35.6 g | FC(CCC1CCC(CC1)O)(F)F | C9H15F3O
reactant | water | 37 ml | O | H2O
reactant | Jones reagent | 69 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sodium hydrogen carbonate | 24 g | C(O)([O-])=O.[Na+]
solvent | acetone | 600 ml | CC(=O)C | C3H6O
solvent | isopropanol | 9 ml | C(C)(C)O | C3H8O
product | 4-(3,3,3-Trifluoropropyl)cyclohexanone | FC(CCC1CCC(CC1)=O)(F)F | C9H13F3O
